US05563163
A mixture of 3,5-dichloro-4-pyridinecarboxylic acid (0.42 g, 0.002 mol), cesium carbonate (0.36 g, 0.001 mol) and methanol (10 ml) was stirred for 30 minutes. The solvent was removed in vacuo and 2-chloromethyl-4-isopropylsaccharin (0.55 g, 0.002 mol) and DMF (10 ml) were added to the residue. The mixture was heated to 75° C. and stirred for 3 hours. The solvent was removed in vacuo and the residue was partitioned between water/methylene chloride. The organic layer was separated, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was treated with ethereal HCl to afford a white gum which was triturated with Et2O (2X), then acetone. A white solid was obtained which was collected by filtration and dried in high vacuum to afford 0.14 g (15%) of 4-isopropyl-2-saccharinylmethyl 3,5-dichloro-pyridine-4-carboxylate hydrochloride, m.p. 93°-95° C.

reactant | 3,5-dichloro-4-pyridinecarboxylic acid | 0.002 mol, 0.42 g | ClC=1C=NC=C(C1C(=O)O)Cl | C6H3Cl2NO2
reactant | cesium carbonate | 0.001 mol, 0.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol | 10 ml | CO | CH4O
reactant | 2-chloromethyl-4-isopropylsaccharin | 0.002 mol, 0.55 g | ClCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)C | C11H12ClNO3S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-isopropyl-2-saccharinylmethyl 3,5-dichloro-pyridine-4-carboxylate hydrochloride | 0.14 g, 15% | Cl.ClC=1C=NC=C(C1C(=O)OCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)C)Cl | InChI=1S/C17H14Cl2N2O5S.ClH/c1-9(2)10-4-3-5-13-14(10)16(22)21(27(13,24)25)8-26-17(23)15-11(18)6-20-7-12(15)19;/h3-7,9H,8H2,1-2H3;1H
